US07977344B2
6-Amino-2-(butylamino)-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-Purin-8-one hydrochloride salt Isomer 1
To 6-amino-2-(butylamino)-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-purin-8-one (isomer 1) (1.0 g) at room temperature and under nitrogen, was added 4.0M hydrochloric acid in 1,4-dioxane (10.61 ml) and the reaction stirred for 30 minutes. The reaction was then concentrated in vacuo and left on the rotary evaporator for 2 hours at 50° C. The beige solid was recrystallised overnight from 2-butanone (18 ml). The crystals were collected by suction filtration and dried in vacuo at 50° C. for 30 minutes (850 mg).

reactant | 6-amino-2-(butylamino)-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-purin-8-one | 1.0 g | NC1=C2NC(N(C2=NC(=N1)NCCCC)CC1COCC1)=O | C14H22N6O2
reactant | hydrochloric acid | 4.0M | Cl | ClH
solvent | 1,4-dioxane | 10.61 ml | O1CCOCC1 | C4H8O2
product | 6-Amino-2-(butylamino)-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-Purin-8-one hydrochloride salt | Cl.NC1=C2NC(N(C2=NC(=N1)NCCCC)CC1COCC1)=O | InChI=1S/C14H22N6O2.ClH/c1-2-3-5-16-13-18-11(15)10-12(19-13)20(14(21)17-10)7-9-4-6-22-8-9;/h9H,2-8H2,1H3,(H,17,21)(H3,15,16,18,19);1H
